US05679746
4-(trans-4-(trans-4-(4,4-difluorobutyl)cyclohexyl)-4-silacyclohexyl)-1-chlorobenzene
The above compound was obtained in the same manner as Example 6, using 4-(4,4-difluorobutyl)cyclohexylbromide and 4-(4-chloro-4-silacyclohexyl)-1-chlorobenzene instead of 4-(4-fluorobutyl)cyclohexybromide and 4-(4-chloro-4-silacyclohexyl)-1,2-difluorobenzene, respectively.

reactant | 4-(4,4-difluorobutyl)cyclohexylbromide | FC(CCCC1CCC(CC1)Br)F | C10H17BrF2
reactant | 4-(4-chloro-4-silacyclohexyl)-1-chlorobenzene | Cl[SiH]1CCC(CC1)C1=CC=C(C=C1)Cl | C11H14Cl2Si
reactant | 4-(4-chloro-4-silacyclohexyl)-1,2-difluorobenzene | Cl[SiH]1CCC(CC1)C1=CC(=C(C=C1)F)F | C11H13ClF2Si
product | 4-(trans-4-(trans-4-(4,4-difluorobutyl)cyclohexyl)-4-silacyclohexyl)-1-chlorobenzene | FC(CCC[C@@H]1CC[C@H](CC1)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)Cl)F | C21H31ClF2Si
